US04065563
3-(2-Furyl)-5-(4-isothiocyanophenyl)-1,2,4-oxadiazole
To a solution of 3-(2-furyl)-5-(4-aminophenyl)-1,2,4-oxadiazole (5.1 g, 0.02 mole) in 150 ml of dry tetrahydrofuran containing 3.1 ml of triethylamine, thiophosgene 2.53 g (0.02 mole) is added and the mixture is stirred at room temperature for 4 hours. After filtration, the solvent is evaporated in vacuo and the product is crystallized from petroleum ether to give 4.0 g (68%) of the title compound, m.p. 136°-137°.

reactant | 3-(2-furyl)-5-(4-aminophenyl)-1,2,4-oxadiazole | 0.02 mole, 5.1 g | O1C(=CC=C1)C1=NOC(=N1)C1=CC=C(C=C1)N | C12H9N3O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.02 mole, 2.53 g | C(=S)(Cl)Cl | CCl2S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3-(2-Furyl)-5-(4-isothiocyanophenyl)-1,2,4-oxadiazole | 4.0 g, 68% | O1C(=CC=C1)C1=NOC(=N1)C1=CC=C(C=C1)N=C=S | C13H7N3O2S
